US08309537B2
Preparation of 1-(4-chlorobenzyl)-3-hydroxypyridin-2(1H)-one (3):
To a solution of 3-(tert-butyldimethylsilanyloxy)-1-(3-chlorobenzyl)-1H-pyridin-2-one, 2, (2.36 g, 10 mmol) in EtOAc (25 mL) as added 5 M HCl (25 mL) with vigorous stirring at room temperature. The reaction was monitored by TLC for the disappearance of starting material and was complete within 30 minutes. The organic layer was decanted and the aqueous phase extracted with dichloromethane (2×50 mL). The combined organic layers were dried over Na2SO4 and the solvent removed under reduced pressure. The crude product was recrystallized from dichloromethane. The yield was nearly quantitative. 1H NMR (360 MHz, DMSO-d6) δ ppm 5.12 (2H, s); 6.13 (1H, t, J=7.04); 6.71 (1H, dd, J=7.04, 1.59); 7.23-7.28 (2H, m); 7.36-7.43 (2H, m); 9.10 (1H, br. s).

reactant | 3-(tert-butyldimethylsilanyloxy)-1-(3-chlorobenzyl)-1H-pyridin-2-one | [Si](C)(C)(C(C)(C)C)OC=1C(N(C=CC1)CC1=CC(=CC=C1)Cl)=O | C18H24ClNO2Si
reactant | HCl | 5 M, 25 mL | Cl | ClH
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-(4-chlorobenzyl)-3-hydroxypyridin-2(1H)-one | ClC1=CC=C(CN2C(C(=CC=C2)O)=O)C=C1 | C12H10ClNO2
